US09101634B2
Preparation of 2,3-dihydro-3-hydroxymethyl-6-amino-[1,4]-benzoxazine in the invention
Iron powder (0.670 g, 12 mmol) was added into EtOH/H2O (v/v=6:1, 100 mL) solution of 2,4-dinitrophenyl glycidyl ether (0.480 g, 2 mmol) and acetic acid (1 mL, 17.5 mmol) at reflux temperature. The reaction mixture was refluxed continuously for 120 minutes, and cooled to room temperature, saturated Na2CO3 solution was used for adjusting pH=8, the solution was leached out with C salt for concentrating ethanol and water in the filtrate, and the solid ethanol was obtained (10 mL×4). Ethanol phase was dried with anhydrous MgSO4 and filtered to obtain crude products; the above crude products were separated with silica gel column chromatography (ethanol as developing agent), and 2,3-dihydro-3-hydroxymethyl-6-amino-[1,4]-benzoxazine (0.149 g, 42%) was prepared.

reactant | 2,4-dinitrophenyl glycidyl ether | 2 mmol, 0.480 g | C(C1CO1)OC1=C(C=C(C=C1)[N+](=O)[O-])[N+](=O)[O-] | C9H8N2O6
reactant | acetic acid | 17.5 mmol, 1 mL | C(C)(=O)O | C2H4O2
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
catalyst | Iron | 12 mmol, 0.670 g | [Fe] | Fe
solvent | EtOH H2O | 100 mL | CCO.O
product | 2,3-dihydro-3-hydroxymethyl-6-amino-[1,4]-benzoxazine | OCC1COC2=C(N1)C=C(C=C2)N | C9H12N2O2
